*** SPICE deck for cell One_bit_adder2{sch} from library Proj2
*** Created on Tue Mar 17, 2020 22:05:22
*** Last revised on Wed Mar 18, 2020 04:39:50
*** Written on Wed Mar 18, 2020 04:47:26 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

.global gnd vdd

*** TOP LEVEL CELL: One_bit_adder2{sch}
Mnmos@0 net@135 A0 net@169 gnd NMOS L=0.35U W=1.75U
Mnmos@1 net@135 net@131 net@170 gnd NMOS L=0.35U W=1.75U
Mnmos@2 net@131 A0 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@3 net@169 net@121 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@4 net@170 B0 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@5 net@121 B0 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@6 net@110 net@135 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@7 net@217 Cin net@251 gnd NMOS L=0.35U W=1.75U
Mnmos@8 net@217 net@213 net@252 gnd NMOS L=0.35U W=1.75U
Mnmos@9 net@213 Cin gnd gnd NMOS L=0.35U W=1.75U
Mnmos@10 net@251 net@203 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@11 net@252 net@110 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@12 net@203 net@110 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@13 Sum net@217 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@14 net@283 Cin net@292 gnd NMOS L=0.35U W=1.75U
Mnmos@15 net@292 net@110 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@16 Cout net@283 net@324 gnd NMOS L=0.35U W=1.75U
Mnmos@17 net@324 net@327 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@18 net@327 A0 net@357 gnd NMOS L=0.35U W=1.75U
Mnmos@19 net@357 B0 gnd gnd NMOS L=0.35U W=1.75U
Mpmos@0 net@158 A0 vdd vdd PMOS L=0.35U W=1.75U
Mpmos@1 net@135 net@131 net@158 vdd PMOS L=0.35U W=1.75U
Mpmos@2 net@131 A0 vdd vdd PMOS L=0.35U W=3.5U
Mpmos@3 net@158 net@121 vdd vdd PMOS L=0.35U W=1.75U
Mpmos@4 net@135 B0 net@158 vdd PMOS L=0.35U W=1.75U
Mpmos@5 net@121 B0 vdd vdd PMOS L=0.35U W=3.5U
Mpmos@6 net@110 net@135 vdd vdd PMOS L=0.35U W=3.5U
Mpmos@7 net@240 Cin vdd vdd PMOS L=0.35U W=1.75U
Mpmos@8 net@217 net@213 net@240 vdd PMOS L=0.35U W=1.75U
Mpmos@9 net@213 Cin vdd vdd PMOS L=0.35U W=3.5U
Mpmos@10 net@240 net@203 vdd vdd PMOS L=0.35U W=1.75U
Mpmos@11 net@217 net@110 net@240 vdd PMOS L=0.35U W=1.75U
Mpmos@12 net@203 net@110 vdd vdd PMOS L=0.35U W=3.5U
Mpmos@13 Sum net@217 vdd vdd PMOS L=0.35U W=3.5U
Mpmos@14 net@283 Cin vdd vdd PMOS L=0.35U W=1.75U
Mpmos@15 net@283 net@110 vdd vdd PMOS L=0.35U W=1.75U
Mpmos@16 Cout net@283 vdd vdd PMOS L=0.35U W=1.75U
Mpmos@17 Cout net@327 vdd vdd PMOS L=0.35U W=1.75U
Mpmos@18 net@327 A0 vdd vdd PMOS L=0.35U W=1.75U
Mpmos@19 net@327 B0 vdd vdd PMOS L=0.35U W=1.75U

* Spice Code nodes in cell cell 'One_bit_adder2{sch}'
VDD VDD 0 DC 3.3
VGND GND 0 DC 0
vin  A0 0 PULSE(5 0 0 1n 1n 2u 4u)
vin2 B0 0 PULSE(5 0 0 1n 1n 1u 2u )
vin3 Cin 0 PULSE(5 0 0 1n 1n 4u 8u)
cload out 0 250fF
.tran 0 10u
.include C:\Electric\C5_models.txt
.END
